US04336401
In a 500 ml. three-necked flask fitted with a mechanical stirrer, a dropping funnel, a thermometer and a reflux condenser protected by a calcium chloride tube is placed a mixture of 66 g. of 2,6,6-trimethyl-1-hydroxy-1-(3-hydroxy-but-1-ynyl)cyclohex-2-ene and 76 g. of pyridine in 200 ml. of tertiary butylmethyl ether. To the stirred solution is added 34 g. of acetic anhydride at room temperature. The reaction mixture is stirred for a period of 27 hours at ambient temperature. The reaction mixture is then poured into 200 ml. of water and the organic layer is separated, washed with 10% hydrochloric acid, subsequently with water, 10% sodium bicarbonate solution and water, and finally dried over sodium sulfate. Concentration yields a residue which gives on distillation 33 g. or 45% yield of 2,6,6-trimethyl-1-(3-acetoxy-but-1-ynyl)cyclohexa-1,3-diene, b.p. 125° C./1 mm., nD20 1.5045.

reactant | 2,6,6-trimethyl-1-hydroxy-1-(3-hydroxy-but-1-ynyl)cyclohex-2-ene | CC=1C(C(CCC1)(C)C)(C#CC(C)O)O | C13H20O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tertiary butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 2,6,6-trimethyl-1-(3-acetoxy-but-1-ynyl)cyclohexa-1,3-diene | 45% yield | CC1=C(C(CC=C1)(C)C)C#CC(C)OC(C)=O | C15H20O2
